US06310056B1
(1S,5R,6S)-2-(7-formylaminomethyl-6-methylimidazo[5,1-b]thiazolium-2-yl)-6-((1R)-1-hydroxyethyl)-1-methyl-1-carbapen-2-em-3-carboxylate (inner salt)
To a solution of 134 mg of 4-nitrobenzyl (1S,5R,6S)-2-(7-formylaminomethyl imidazo[5,1-b]thiazol-2-yl)-6-((1R)-1-hydroxyethyl)-1-methyl-1-carbapen-2-em-3-carboxylate in 2 ml of DMF was added 1.6 ml of methyl iodide, and the mixture was stirred at room temperature for 12 hours. The solvent was removed under reduced pressure. The residue thus obtained was dissolved in 5 ml of THF and 5 ml of 0.1 M sodium phosphate buffer (pH 6.8), and 150 mg of 10% Pd-C. The reactor was purged with hydrogen, the reaction mixture was stirred at room temperature for 1 hour. The catalyst was collected by filtration, and washed with a mixed solution of 2 ml of 0.1 M sodium phosphate buffer (pH 6.8) and 2 ml of THF. The filtrate was washed with 10 ml of ethyl acetate, and the aqueous layer obtained was purified by column chromatography on COSMOSEAL 40C18-PREP (water:methanol=20:1). The fraction containing the aimed product was concentrated under reduced pressure, and then lyophilized to give 58 mg of the title compound.

reactant | 4-nitrobenzyl (1S,5R,6S)-2-(7-formylaminomethyl imidazo[5,1-b]thiazol-2-yl)-6-((1R)-1-hydroxyethyl)-1-methyl-1-carbapen-2-em-3-carboxylate | 134 mg | C(=O)NCC=1N=CN2C1SC(=C2)C=2[C@@H]([C@H]1N(C2C(=O)OCC2=CC=C(C=C2)[N+](=O)[O-])C([C@@H]1[C@@H](C)O)=O)C | C24H23N5O7S
reactant | methyl iodide | 1.6 ml | CI | CH3I
solvent | DMF | 2 ml | CN(C)C=O | C3H7NO
solvent | THF | 5 ml | C1CCOC1 | C4H8O
solvent | sodium phosphate | 0.1 M, 5 ml, pH 6.8 | P(=O)([O-])([O-])[O-].[Na+].[Na+].[Na+]
catalyst | Pd-C | 150 mg | [Pd] | Pd
product | (1S,5R,6S)-2-(7-formylaminomethyl-6-methylimidazo[5,1-b]thiazolium-2-yl)-6-((1R)-1-hydroxyethyl)-1-methyl-1-carbapen-2-em-3-carboxylate | 58 mg | C(=O)NCC=1N(C=[N+]2C1SC(=C2)C=2[C@@H]([C@H]1N(C2C(=O)[O-])C([C@@H]1[C@@H](C)O)=O)C)C | C18H20N4O5S
